US07105515B2
To a solution of 417 mg (1 mMol) of N-[3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indol-5-yl]naphthalene-1-sulphonamide in 50 ml of methanol are added 100 mg of 5% palladium on carbon. The mixture is hydrogenated at ambient temperature at an initial hydrogen pressure of 3 atmospheres for 20 hours. The reaction mixture is filtered and the filtrate is concentrated at reduced pressure to provide a crude that is suspended in ethyl ether, yielding 272 mg (65%) of N-[3-(1-methyl-pipendin-4-yl)-1H-indol-5-yl]naphthalene-1-sulphonamide as a solid with m.p.=254-256° C.

reactant | N-[3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indol-5-yl]naphthalene-1-sulphonamide | 1 mMol, 417 mg | CN1CCC(=CC1)C1=CNC2=CC=C(C=C12)NS(=O)(=O)C1=CC=CC2=CC=CC=C12 | C24H23N3O2S
reactant | hydrogen | [H][H] | H2
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
solvent | ethyl ether | C(C)OCC | C4H10O
product | N-[3-(1-methyl-pipendin-4-yl)-1H-indol-5-yl]naphthalene-1-sulphonamide | 272 mg, 65% | CN1CCC(CC1)C1=CNC2=CC=C(C=C12)NS(=O)(=O)C1=CC=CC2=CC=CC=C12 | C24H25N3O2S
